US05053414
Synthesis of (2S)-1-benzoylpyrrolidine-2-methanol
Benzoyl chloride (18.5 ml) and an aqueous (50 ml) solution of sodium carbonate (17.0 g) were added dropwise to a solution of (S)-2-pyrrolidinemethanol (12.0 g) in a mixture of acetone (70 ml) and water (14 ml). After addition, the reaction mixture was stirred for 30 mins at room temperature. The reaction mixture was filtered. Water was added to the filtrate. The mixture was extracted with methylene chloride. The extract was washed, dried and evaporated. The residue was purified by column chromatography on silica-gel (hexane-EtOAc) to give the title compound (24.1 g) having the following physical data:

reactant | Benzoyl chloride | 18.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium carbonate | 17.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (S)-2-pyrrolidinemethanol | 12.0 g | N1[C@@H](CCC1)CO | C5H11NO
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | water | 14 ml | O | H2O
product | (2S)-1-benzoylpyrrolidine-2-methanol | 24.1 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CCC1)CO | C12H15NO2
